US07179811B2
Reaction under N2 flow. NaH 60% (0.02 mol) was added to a mixture of 1,1-dimethyl-ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate (0.02 mol) in N,N-di-methylformamide (100 ml). The mixture was stirred at 40° C. for 1 hour. 6-(Epoxyethyl)-2-picoline (0.02 mol) in a small amount of N,N-dimethylformamide was added. The mixture was stirred at 100° C. overnight. The solvent was evaporated. The residue was taken up in H2O and CH2Cl2. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 95/5 and 90/10). The pure fractions were collected and the solvent was evaporated, yielding 3.5 g of (±)-1,1-dimethylethyl 4-[[1-[2-hydroxy-2-(6-methyl-2-pyridinyl)ethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate (interm. 16).

reactant | NaH | 0.02 mol | [H-].[Na+]
reactant | 1,1-dimethyl-ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate | 0.02 mol | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | 6-(Epoxyethyl)-2-picoline | 0.02 mol | O1CC1C1=CC=CC(=N1)C | C8H9NO
solvent | N,N-di-methylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (±)-1,1-dimethylethyl 4-[[1-[2-hydroxy-2-(6-methyl-2-pyridinyl)ethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 3.5 g | OC(CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)C2=NC(=CC=C2)C | C25H33N5O3
